US03954753
Preparation of 2-amino-3-benzoylpyrazine
2-Aminopyrazine-3-carboxylic acid pyrrolidide (63.4 g. or 0.33 mol) was added to a solution of freshly prepared phenylmagnesium bromide (305 g.) in 1 l. of tetrahydrofuran while the temperature was kept at 20°-30° by cooling with an ice bath. After stirring at room temperature for 2 hours, the mixture was hydrolyzed by addition of 2 l. of water. The aqueous layer was extracted twice with 500 ml. of methylene chloride. The extracts were combined with the organic layer, dried over sodium sulfate and evaporated. The brown residue was slurried with ether to yield 37.5 g. (56%) of yellow crystals of the above-named product.

reactant | 2-Aminopyrazine-3-carboxylic acid pyrrolidide | 0.33 mol, 63.4 g | NC1=NC=CN=C1C(=O)N1CCCC1 | C9H12N4O
reactant | phenylmagnesium bromide | 305 g | C1(=CC=CC=C1)[Mg]Br
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 2-amino-3-benzoylpyrazine | NC1=NC=CN=C1C(C1=CC=CC=C1)=O | C11H9N3O
